US04232887
Preparation of 3-(1-ethyl-2-methylindol-3-yl)-3-(1,2-diphenylindolizin-3-yl)phthalide.
A mixture of 3.06 grams of (1-ethyl-2-methylindol-3-yl) (2-carboxyphenyl)ketone, 2.7 grams of 2,3-diphenylindolizine and 10 ml. of acetic anhydride was heated at about 50° C. for 107 minutes. The reaction mixture was cooled and filtered and the obtained product was recrystallized from a toluene-heptane mixture. The 3.3 grams of product were recrystallized from a toluene-heptane mixture to a constant melting point of 227°-227.5° C. A chloroform solution of the product when applied to silica gel produced a blue color.

reactant | (1-ethyl-2-methylindol-3-yl) (2-carboxyphenyl)ketone | 3.06 grams | C(C)N1C(=C(C2=CC=CC=C12)C(=O)C1=C(C=CC=C1)C(=O)O)C | C19H17NO3
reactant | 2,3-diphenylindolizine | 2.7 grams | C1(=CC=CC=C1)C=1C=C2C=CC=CN2C1C1=CC=CC=C1 | C20H15N
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 3-(1-ethyl-2-methylindol-3-yl)-3-(1,2-diphenylindolizin-3-yl)phthalide | C(C)N1C(=C(C2=CC=CC=C12)C1(OC(=O)C2=CC=CC=C12)C1=C(C(=C2C=CC=CN12)C1=CC=CC=C1)C1=CC=CC=C1)C | C39H30N2O2
